US03954776
A solution of 2.8 g of 1-chloro-3[2-(2-thienylmethyl)phenoxy]-2-propanol, 2.3 g of 2,6-dimethylpiperidine in 30 ml of ethanol is refluxed for 15 hours. The ethanol is then removed, and the residue is dissolved in ether. The insoluble matter is filtered off, and the filtrated is extracted with two 50 ml portions of 10% hydrochloric acid. The aqueous layer is made alkaline with sodium hydroxide, and separated oil is extracted with ether. The ether layer is dried over anhydrous potassium carbonate, and the solvent is removed. The residue (crude product) is purified by column chromatography and converted into the hydrochloride in the same manner as in above method (a) to give 2.1 g of 1-(2,6-dimethylpiperidino)-3-[2-(2-thienylmethyl)phenoxy]-2-propanol hydrochloride as colorless crystals, melting at 152°-153°C.

reactant | 1-chloro-3[2-(2-thienylmethyl)phenoxy]-2-propanol | 2.8 g | ClCC(COC1=C(C=CC=C1)CC=1SC=CC1)O | C14H15ClO2S
reactant | 2,6-dimethylpiperidine | 2.3 g | CC1NC(CCC1)C | C7H15N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-(2,6-dimethylpiperidino)-3-[2-(2-thienylmethyl)phenoxy]-2-propanol hydrochloride | 2.1 g | Cl.CC1N(C(CCC1)C)CC(COC1=C(C=CC=C1)CC=1SC=CC1)O | InChI=1S/C21H29NO2S.ClH/c1-16-7-5-8-17(2)22(16)14-19(23)15-24-21-11-4-3-9-18(21)13-20-10-6-12-25-20;/h3-4,6,9-12,16-17,19,23H,5,7-8,13-15H2,1-2H3;1H
